US04859761
N-allyl-N'-cyano-N"-phenylguanidine
0.6 g of N-allyl-N'-phenylcarbodiimide in 8 ml of 1,2-dichloromethane is reacted with 0.17 g cyanamide and the reaction mixture is worked up as described in Example 4. Recrystallisation from diethyl ether yields a colourless crystalline product which melts at 99.5°-100.5° C.

reactant | N-allyl-N'-phenylcarbodiimide | 0.6 g | C(C=C)N=C=NC1=CC=CC=C1 | C10H10N2
reactant | cyanamide | 0.17 g | N#CN | CH2N2
product | N-allyl-N'-cyano-N"-phenylguanidine | C(C=C)NC(=NC1=CC=CC=C1)NC#N | C11H12N4
